US06706725B1
c) Ethyl (E)-5-(Bromo-2-thienyl)-4-hexenoate
22.2 g (51.7 mmol) of (3-carboxypropyl)triphenylphosphonium bromide are dried under vacuum for 1 h with heating at 130° C., and then cooled to room temperature and dissolved in 200 mL of anhydrous THF. 11.5 g (102.5 mmol) of potassium tert-butoxide in 100 mL of THF are then added slowly, after which the orange-red mixture is stirred for 15 minutes. A solution of 7 g (34 mmol) of 1-(5-bromo-2-thienyl)ethanone in 100 mL of THF is then added dropwise and the reaction medium is stirred for 15 hours. After treatment with saturated ammonium chloride solution, extraction with ethyl acetate, drying and evaporation of the solvents from the organic phase, the residue obtained is purified by chromatography on a column of silica. An ochre-coloured solid is obtained (m.p.: 62-64° C., m=5.8 g; Y=62%). This product is then dissolved in 100 mL of ethanol and 2 mL of sulphuric acid are then added. The reaction medium is brought to reflux and stirred for 2 hours. After treatment with water, the medium is extracted with ethyl acetate and the organic phases are then combined, dried and concentrated under reduced pressure. The residue obtained is purified by chromatography on a column of silica (eluent: 95 heptane/5 ethyl acetate) to give the pure trans isomer in the form of a yellow oil (m=3.4 g; Y=77%).

reactant | (3-carboxypropyl)triphenylphosphonium bromide | 51.7 mmol, 22.2 g | [Br-].C(=O)(O)CCC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | potassium tert-butoxide | 102.5 mmol, 11.5 g | CC(C)([O-])C.[K+]
reactant | 1-(5-bromo-2-thienyl)ethanone | 34 mmol, 7 g | BrC1=CC=C(S1)C(C)=O | C6H5BrOS
reactant | sulphuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | Ethyl (E)-5-(Bromo-2-thienyl)-4-hexenoate | BrC1=C(SC=C1)/C(=C/CCC(=O)OCC)/C | C12H15BrO2S
